US04056537
6-HYDROXY-1-METHYL-1,3,4,9-TETRAHYDROPYRANO[3,4-b]INDOLE-1-ACETIC ACID (VII; R1 = CH3, R2, R3, R4, R5AND R7 = H, R6 = 6-OH, X = 0, AND Z = CH2COOH)
A mixture of 6-benzyloxy-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid (5.3 g., 0.015 mole), prepared as described in Example 25, in 250 ml. of anhydrous ethanol, and 1.1 g. of 10% palladium on carbon is stirred at room temperature under a hydrogen atmosphere until no more hydrogen is being taken up by the reaction mixture. The catalyst is removed by filtration through diatomaceous earth (Celite) and the filtrate concentrated. The residue is recrystallized from ethanol-benzene to afford the title compound, m.p. 170°- 171° C.

reactant | 6-benzyloxy-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid | 0.015 mole, 5.3 g | C(C1=CC=CC=C1)OC=1C=C2C3=C(NC2=CC1)C(OCC3)(CC(=O)O)C | C21H21NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 6-HYDROXY-1-METHYL-1,3,4,9-TETRAHYDROPYRANO[3,4-b]INDOLE-1-ACETIC ACID | OC=1C=C2C3=C(NC2=CC1)C(OCC3)(CC(=O)O)C | C14H15NO4
